data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2886,3207,[CH3:1][O:2][C:3](=[O:4])[C:5]1([Cl:6])[C:7]#[C:8][C:9]([c:10]2[cH:11][cH:12][cH:13][cH:14][cH:15]2)([c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[CH2:22][CH2:23][CH2:24][CH2:25]1.[CH3:26][NH:27][C:28](=[O:29])[C-:30]([O+:31]=[C:32]([c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1)[c:39]1[cH:40][cH:41][cH:42][cH:43][cH:44]1)[C:45](=[O:46])[O:47][CH3:48]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([Cl:6])[C:7]2=[C:8]([C:9]([c:10]3[cH:11][cH:12][cH:13][cH:14][cH:15]3)([c:16]3[cH:17][cH:18][cH:19][cH:20][cH:21]3)[CH2:22][CH2:23][CH2:24][CH2:25]1)[C:32]([c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1)([c:39]1[cH:40][cH:41][cH:42][cH:43][cH:44]1)[O:31][C:30]2([C:28]([NH:27][CH3:26])=[O:29])[C:45](=[O:46])[O:47][CH3:48],water,298.15,16.31867891330833,-41.40794568287809
4355,4976,[CH3:10][O:11][C:12](=[O:13])[C-:14]([CH3:15])[O+:16]=[CH:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[CH:17]([c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[O:16][C:14]1([C:12]([O:11][CH3:10])=[O:13])[CH3:15],water,298.15,11.272607522190553,-35.46796158458998
2975,3324,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][C:6](=[O:7])[C-:8]([CH3:9])[N+:10]#[C:11][C:12]#[N:13]>>[CH3:1][C@@H:2]1[C@H:3]([CH3:4])[C:8]([C:6]([CH3:5])=[O:7])([CH3:9])[N:10]=[C:11]1[C:12]#[N:13],water,298.15,15.715255293600563,-41.43918586058376
3564,4062,[CH3:10][N-:11][N+:12]([CH3:13])=[C:14]([CH3:15])[C:16]([CH3:17])=[O:18].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]([CH3:15])([C:16]([CH3:17])=[O:18])[N:12]([CH3:13])[N:11]1[CH3:10],water,298.15,22.863628684429266,-7.578888600557139
5181,5879,[CH3:10][O:11][C:12](=[O:13])[C:14](=[NH+:15][C-:16]([C:17](=[O:18])[O:19][CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[C:27](=[O:28])[O:29][CH3:30].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:16]([C:17](=[O:18])[O:19][CH3:20])([c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[NH:15][C:14]1([C:12]([O:11][CH3:10])=[O:13])[C:27](=[O:28])[O:29][CH3:30],water,298.15,30.17579652130313,-5.144629647804071
3155,3558,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][c:8]1[o:9][c:10](=[O:11])[c-:12]([CH3:13])[n+:14]1[CH3:15]>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[C:12]2([CH3:13])[C:10](=[O:11])[O:9][C:8]1([CH3:7])[N:14]2[CH3:15],water,298.15,29.506752775738025,-3.640695947563712
2102,2330,[CH3:14][O:15][C:16](=[O:17])[C:18](=[O+:19][C-:20]([C:21]([CH3:22])=[O:23])[C:24]([CH3:25])=[O:26])[C:27](=[O:28])[O:29][CH3:30].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([O:7][CH3:8])[CH:9]2[CH2:10][CH2:11][CH:12]1[CH2:13]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([O:7][CH3:8])([CH:9]3[CH2:10][CH2:11][CH:12]1[CH2:13]3)[C:18]([C:16]([O:15][CH3:14])=[O:17])([C:27](=[O:28])[O:29][CH3:30])[O:19][C:20]2([C:21]([CH3:22])=[O:23])[C:24]([CH3:25])=[O:26],water,298.15,16.197252136527876,-26.39750453868184
2554,2834,[CH3:13][NH:14][C:15](=[O:16])[C:17](=[O+:18][C-:19]([CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([Br:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([Br:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:19]([CH3:20])([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[O:18][C:17]2([C:15]([NH:14][CH3:13])=[O:16])[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1,water,298.15,16.71453570337928,-3.1789849371930803
1601,1770,[Br:1][C:2]#[C:3][c:4]1[cH:5][cH:6][cH:7][cH:8][cH:9]1.[CH3:10][O:11][C:12](=[O:13])[c:14]1[nH+:15][c-:16](-[c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[c:23](=[O:24])[o:25]1>>[Br:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[C:14]2([C:12]([O:11][CH3:10])=[O:13])[NH:15][C:16]1([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[C:23](=[O:24])[O:25]2,water,298.15,22.64407460173427,-16.440612418320107
2027,2250,[CH3:13][O:14][C:15](=[O:16])[c-:17]1[c:18](=[O:19])[o:20][c:21](-[c:22]2[cH:23][cH:24][cH:25][cH:26][cH:27]2)[n+:28]1[CH3:29].[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[F:1][C:2]([F:3])([F:4])[C:5]12[C:6]([Cl:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:21]1([c:22]3[cH:23][cH:24][cH:25][cH:26][cH:27]3)[O:20][C:18](=[O:19])[C:17]2([C:15]([O:14][CH3:13])=[O:16])[N:28]1[CH3:29],water,298.15,51.51222277570195,16.675179512404366
1494,1649,[CH3:13][O:14][C:15](=[O:16])[C-:17]([C:18]#[N:19])[O+:20]=[C:21]([CH3:22])[CH3:23].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([Br:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([Br:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:21]([CH3:22])([CH3:23])[O:20][C:17]2([C:15]([O:14][CH3:13])=[O:16])[C:18]#[N:19],water,298.15,23.053641154849377,-20.74415718948583
